US09107916B2
A. ethyl (2E)-2-(dimethylaminomethylidene)butanoate
The title compound was prepared from N,N,N′,N′-tetramethyl-1-[(2-methylpropan-2-yl)oxy]methanediamine and ethyl butanoate according to the procedure for the preparation of Example 84, part A. [M+H] Calc'd for C9H17NO2, 172. Found, 172.

reactant | N,N,N′,N′-tetramethyl-1-[(2-methylpropan-2-yl)oxy]methanediamine | CN(C(N(C)C)OC(C)(C)C)C | C9H22N2O
reactant | ethyl butanoate | C(CCC)(=O)OCC | C6H12O2
product | ethyl (2E)-2-(dimethylaminomethylidene)butanoate | CN(C)\C=C(\C(=O)OCC)/CC | C9H17NO2
